US04533655
By the method of part A of Example 3 N-(tert-butyloxycarbonyl)-N-methyl-D-alanine (2.03 g.) was condensed with 3-(4-fluorophenyl)propylamine (prepared by condensing 4-fluorobenzaldehyde with cyanoacetic acid in refluxing pyridine using piperidine as catalyst and hydrogenating the resulting β-4-fluorophenyl)acrylonitrile in ethanolic ammonia under high pressure using Raney nickel catalyst, m.r. of methanesulfonate salt 129°-131° C.; 2.49 g.), affording N2 -(tert-butyloxycarbonyl)-N2 -methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide as a syrup (2.77g.).

reactant | N-(tert-butyloxycarbonyl)-N-methyl-D-alanine | 2.03 g | C(C)(C)(C)OC(=O)N([C@H](C)C(=O)O)C | C9H17NO4
reactant | 3-(4-fluorophenyl)propylamine | FC1=CC=C(C=C1)CCCN | C9H12FN
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | ammonia | N | H3N
catalyst | piperidine | N1CCCCC1 | C5H11N
catalyst | Raney nickel | [Ni] | Ni
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N2 (tert-butyloxycarbonyl)-N2 -methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide | N#N.C(C)(C)(C)OC(=O)N([C@H](C)C(=O)NCCCC1=CC=C(C=C1)F)C | InChI=1S/C18H27FN2O3.N2/c1-13(21(5)17(23)24-18(2,3)4)16(22)20-12-6-7-14-8-10-15(19)11-9-14;1-2/h8-11,13H,6-7,12H2,1-5H3,(H,20,22);/t13-;/m1./s1
